US04382090
Following the above procedure, 10.1 millimoles of 2-(methylaminomethyl)-4-thiazolemethanol dihydrochloride, 1.15 g. of cysteamine hydrochloride and 15 ml. of 48% aqueous hydrobromic acid were stirred at about 100° C. for about 7.5 hours. Water and hydrobromic acid were removed on a rotary evaporator and the resulting residue comprising 2-(2-methylaminomethyl-4-thiazolylmethylthio)ethylamine trihydrobromide formed in the above reaction was dissolved in water and the water removed by evaporation. The residue was again taken up in water and the water removed by evaporation. The residue was then dissolved in a small volume of water and a solution of 5.5 g. of potassium carbonate in 15 ml. of water was added. The resulting alkaline solution was evaporated to dryness. The resulting residue, comprising the free base of 2-(2-methylaminomethyl-4-thiazolylmethylthio)ethylamine, was slurried with ethanol and the ethanol separated and removed by evaporation. The residue was twice slurried with isopropanol. The residue was next extracted with boiling isopropanol several times and the combined isopropanol extracts combined and filtered. Removal of the isopropanol yielded a yellow oil. The yellow oil was dissolved in chloroform and the chloroform solution filtered. Chloroform was evaporated from the filtrate to yield 1.59 g. of a yellow oil comprising 2-(2-methylaminomethyl-4-thiazolylmethylthio)ethylamine. The compound had the following physical characteristics:

reactant | 2-(methylaminomethyl)-4-thiazolemethanol dihydrochloride | 10.1 millimoles | Cl.Cl.CNCC=1SC=C(N1)CO
reactant | cysteamine hydrochloride | Cl.NCCS
reactant | hydrobromic acid | Br | BrH
product | 2-(2-methylaminomethyl-4-thiazolylmethylthio)ethylamine trihydrobromide | Br.Br.Br.CNCC=1SC=C(N1)CSCCN | InChI=1S/C8H15N3S2.3BrH/c1-10-4-8-11-7(6-13-8)5-12-3-2-9;;;/h6,10H,2-5,9H2,1H3;3*1H
